US07524849B2
A mixture of 5,7-dichloro-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidine (3.19 g, 10 mmol), 2,2,2-trifluoroethylamine (3.0 g, 30 mmol), and triethylamine (3.0 g, 30 mmol) in 30 mL of N,N-dimethylformamide is stirred at room temperature under nitrogen atmosphere for 1 h. The reaction mixture is diluted with ethyl acetate. The organic layer is washed with saturated sodium chloride (×3), dried over magnesium sulfate, and concentrated. The residue is filtered through hydrous magnesium silicate. Concentration provides 5-chloro-6-(2,4,6-trifluorophenyl)-N-(2,2,2-trifluoroethyl)[1,2,4]triazolo[1,5-a]pyrimidin-7-amine as a light yellow solid (3.70 g). MS: m/z 381.9 (M+H).

reactant | 5,7-dichloro-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidine | 10 mmol, 3.19 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)Cl)N=CN2 | C11H3Cl2F3N4
reactant | 2,2,2-trifluoroethylamine | 30 mmol, 3.0 g | FC(CN)(F)F | C2H4F3N
reactant | triethylamine | 30 mmol, 3.0 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-6-(2,4,6-trifluorophenyl)-N-(2,2,2-trifluoroethyl)[1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 3.70 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)NCC(F)(F)F)N=CN2 | C13H6ClF6N5
